* D:\Academics\vlsi\power-electronic-design\buck_converter_discontinuous_conduction.asc
* Generated by LTspice 24.1.10 for Windows.
Vs IN 0 50
M1 IN G P P IRFH5306
D 0 P MBRB2545CT
L P OUT 1m
C OUT 0 100µ
Ro OUT 0 100
V2 G P PULSE(0 15 0 1n 1n 50u 100u)
.model D D
.lib C:\Users\adeet\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adeet\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100m
.backanno
.end
