
* Buck Converter - Ngspice Simulation

Vs IN 0 DC 12

M1 IN G P P IRFH5306
D1 0 P MBRB2545CT

L1 P OUT 100u
C1 OUT 0 100u
R1 OUT 0 6

V2 G P PULSE(0 10 0 1n 1n 5u 10u)

* MOSFET model
.model IRFH5306 VDMOS(
+ Rg=1.4 Vto=2.35 Rd=2.05m Rs=0.0m
+ Rb=3.5m Kp=27
+ Cgdmax=0.58n Cgdmin=160p
+ Cgs=0.5n Cjo=3.5n
+ Is=300p ksubthres=.1
+ Vds=30 Ron=6.9m Qg=7.8n)

* Diode model
.model MBRB2545CT D(
+ Is=19.4n Rs=.01 N=.733
+ Eg=.718 Xti=.535
+ Cjo=2.05n Vj=.4 M=.41)

.tran 100n 10m

.control
run
plot i(L1)
plot v(out)
plot v(p)
plot v(g) - v(p)
.endc

.end

